US04038396
A solution of 0.63 g. of 2-(3-aminophenyl)oxazolo[4,5-b]pyridine in 10 ml. of pyridine was treated with 0.35 ml. of acetic anhydride with stirring. After stirring over the weekend the mixture was diluted to 50 ml. with water. After stirring a short time and cooling, the precipitate was collected, washed with water and dried. Recrystallization from ethyl acetate gave 2-(3-acetamidophenyl)oxazolo[4,5-b]pyridine, m.p. 201.5°-202.5°.

reactant | 2-(3-aminophenyl)oxazolo[4,5-b]pyridine | NC=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1 | C12H9N3O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 2-(3-acetamidophenyl)oxazolo[4,5-b]pyridine | C(C)(=O)NC=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1 | C14H11N3O2
